US08097759B2
3,5-Dibromo-N-(3,5-dichlorophenyl)-2-hydroxybenzamide (Compound No. 150)
Using 3,5-dibromosalicylic acid and 3,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 3,5-dibromosalicylic acid | BrC1=C(C(C(=O)O)=CC(=C1)Br)O | C7H4Br2O3
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | 3,5-Dibromo-N-(3,5-dichlorophenyl)-2-hydroxybenzamide | Yield: 44.2% | BrC=1C(=C(C(=O)NC2=CC(=CC(=C2)Cl)Cl)C=C(C1)Br)O | C13H7Br2Cl2NO2
